US07842696B2
DIPEA (98 mg, 0.76 mmol) was added to a stirred solution of (4-benzyloxy-benzoylamino]-acetic acid (50 mg, 0.17 mmol) in DMF (3 mL). HOBT (25.8 mg, 0.19 mmol) and EDCI.HCl (83 mg, 0.43 mmol) were added at room temperature. After 2 minutes, piperazine-1-yl-(2-trifluoromethyl-phenyl)-methanone hydrochloride (61.5 mg, 0.21 mmol). The resulting mixture was stirred at room temperature overnight. The mixture was diluted with cold water and the resulting precipitate was filtered, washed with hexane and dried to afford 93 mg (99% yield) of 4-benzyloxy-N-{2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-benzamide. LC-MS purity: 87%, 1H NMR (DMSO): δ 8.5 (s, 1H,), 7.8 (m, 5H), 7.5 (s, 1H), 7.4 (m, 4H), 7.1 (d, 2H), 5.2 (s, 2H), 4.2 (d, 2H), 3.7 (m, 4H), 3.5 (s, 2H), 3.4 (s, 2H), 3.3 (s, 2H).

reactant | DIPEA | 0.76 mmol, 98 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | (4-benzyloxy-benzoylamino]-acetic acid | 0.17 mmol, 50 mg | C(C1=CC=CC=C1)OC1=CC=C(C(=O)NCC(=O)O)C=C1 | C16H15NO4
reactant | HOBT | 0.19 mmol, 25.8 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI.HCl | 0.43 mmol, 83 mg | CCN=C=NCCCN(C)C.Cl
reactant | piperazine-1-yl-(2-trifluoromethyl-phenyl)-methanone hydrochloride | 0.21 mmol, 61.5 mg | Cl.N1(CCNCC1)C(=O)C1=C(C=CC=C1)C(F)(F)F
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-benzyloxy-N-{2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-benzamide | 93 mg, 99% yield | C(C1=CC=CC=C1)OC1=CC=C(C(=O)NCC(N2CCN(CC2)C(C2=C(C=CC=C2)C(F)(F)F)=O)=O)C=C1 | C28H26F3N3O4
